US07741315B2
Step 2: 10-(3-Chloro-4-fluorobenzyl)-8-hydroxy-2,3,4,5,11,12-hexahydro[1,4]diazepino[2,1-a]-2,6-naphthyridine-1,7,9(10H)-trione
A mixture of 10-(3-chloro-4-fluorobenzyl)-8-hydroxy-2-(4-methoxybenzyl)-2,3,4,5,11,12-hexahydro[1,4]diazepino[2,1-a]-2,6-naphthyridine-1,7,9(10H)-trione (18 mg, 30 μmol) and p-toluenesulfonic acid (26 mg, 0.14 mmol) in toluene (0.5 mL) was heated at 110° C. for 8 hours. The reaction mixture was concentrated under vacuum. The residue was purified by reverse phase high pressure liquid chromatography. Collection and lyophilization of appropriate fractions provided the title compound.

reactant | 10-(3-chloro-4-fluorobenzyl)-8-hydroxy-2-(4-methoxybenzyl)-2,3,4,5,11,12-hexahydro[1,4]diazepino[2,1-a]-2,6-naphthyridine-1,7,9(10H)-trione | 30 μmol, 18 mg | ClC=1C=C(CN2C(C3=C(C(N4C(=C3CC2)C(N(CCC4)CC4=CC=C(C=C4)OC)=O)=O)O)=O)C=CC1F | C27H25ClFN3O5
reactant | p-toluenesulfonic acid | 0.14 mmol, 26 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
product | 10-(3-Chloro-4-fluorobenzyl)-8-hydroxy-2,3,4,5,11,12-hexahydro[1,4]diazepino[2,1-a]-2,6-naphthyridine-1,7,9(10H)-trione | ClC=1C=C(CN2C(C3=C(C(N4C(=C3CC2)C(NCCC4)=O)=O)O)=O)C=CC1F | C19H17ClFN3O4
